US07547691B2
(B). Preparation of 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-6-sulfonic acid benzhydrylamide
To a solution of diisopropylamine (2.09 mL, 14.87 mmol) in dry THF (10 mL) is added a solution of n-butyllithium (1.6 M in hexane, 9.14 mL, 14.62 mmol) at −78° C. under a nitrogen atmosphere, the mixture is stirred for 30 minutes. A solution of benzo[b]thiophene-6-sulfonic acid benzhydrylamide (925 mg, 2.44 mmol) and triisopropylborate (2.87 mL, 12.43 mmol) in dry THF (10 mL) is added. The mixture is slowly warmed to 10° C. over 1 hour and stirred at room temperature for 30 minutes. A solution of sodium carbonate (2 M in water, 3.78 mL) is added followed by the addition of 2,4 dichloro5-methylpyrimidine (517 mg, 3.17 mmol) and (1,1′-bis(diphenylphosphino)ferrocene)palladium (II) chloride (99.6 mg, 0.122 mmol). The mixture is heated at 60° C. for 1.5 hours then cooled to room temperature. Water (40 mL) is added and the mixture is extracted with EtOAc (3×40 mL). The organic layers are dried (MgSO4) and concentrated. The residue is chromatographed on silica gel, eluting with hexanes/EtOAc 90:10 to 40:60, to give the title compound as a yellow solid (457 mg, 37% yield).

reactant | diisopropylamine | 14.87 mmol, 2.09 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 14.62 mmol, 1.6 M, 9.14 mL | C(CCC)[Li]
reactant | benzo[b]thiophene-6-sulfonic acid benzhydrylamide | 2.44 mmol, 925 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)NS(=O)(=O)C=1C=CC2=C(SC=C2)C1 | C21H17NO2S2
reactant | triisopropylborate | 12.43 mmol, 2.87 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | sodium carbonate | 2 M, 3.78 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2,4 dichloro5-methylpyrimidine | 3.17 mmol, 517 mg | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Water | 40 mL | O | H2O
product | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-6-sulfonic acid benzhydrylamide | 457 mg, 37% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)NS(=O)(=O)C=1C=CC2=C(SC(=C2)C2=NC(=NC=C2C)Cl)C1 | C26H20ClN3O2S2
